US06329550B1
20.2 Synthesis of N,N′-diphenethyl-2-((S)-2-(p-methoxybenzylmercapto)-6-phthalimidohexanoylamino)malonamide
Combine N,N′-diphenethyl-2-((S)-2-bromo-6-phthalimidohexanoylamino)malonamide (10 mmol), 4-methyoxybenzylmercaptan (3.48 mL, 25 mmol), and tetrabutylammonium iodide (about 50 mg) in dimethylformamide (10 mL). Degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add cesium carbonate (4.10 g, 12.5 mmol). After 15 hours, partition the reaction mixture between water and methyl t-butyl ether, saturate the aqueous layer with sodium chloride. Extract the aqueous layer with brine, dry over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | N,N′-diphenethyl-2-((S)-2-bromo-6-phthalimidohexanoylamino)malonamide | 10 mmol | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](CCCCN1C(C=2C(C1=O)=CC=CC2)=O)Br)=O)=O | C33H35BrN4O5
reactant | 4-methyoxybenzylmercaptan | 25 mmol, 3.48 mL | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | cesium carbonate | 12.5 mmol, 4.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrabutylammonium iodide | about 50 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N,N′-diphenethyl-2-((S)-2-(p-methoxybenzylmercapto)-6-phthalimidohexanoylamino)malonamide | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](CCCCN1C(C=2C(C1=O)=CC=CC2)=O)SCC2=CC=C(C=C2)OC)=O)=O | C41H44N4O6S
